US07601702B2
5′-Tritylamino-2′,5′-dideoxyuridine (14)
5′-Amino-2′,5′-dideoxyuridine (0.200 g, 0.88 mmol) was taken in dry pyridine (5 mL) and the mixture was sonicated for a few minutes. Trityl chloride (0.278 g, 1.00 mmol) was added and the reaction mixture was stirred at 50° C. overnight. The reaction was then quenched with water (20 mL). The crude mixture was extracted with DCM (3×10 mL). The organic layers were combined, washed with water (10 mL), dried over MgSO4 and concentrated on the rotary evaporator. The resultant brown oil was further purified by silica gel column chromatography (Isolute Si column) using a gradient elution of 0→10% CH3OH in CHCl3. The fractions with Rf=0.28 (10% CH3OH/CHCl3) were pooled and evaporated to dryness to yield the title compound as a white solid (0.202 g, 49%).

reactant | 5′-Amino-2′,5′-dideoxyuridine | 0.88 mmol, 0.200 g | NC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C=C1)O | C9H13N3O4
reactant | Trityl chloride | 1.00 mmol, 0.278 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 5′-Tritylamino-2′,5′-dideoxyuridine | 0.202 g, 49% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C=C1)O | C28H27N3O4
